US05359098
A mixture of 5'-(6-chlorohexoxy)-2'-hydroxyacetophenone (32 g) and benzaldehyde (12 g) was dissolved in 250 mL of ethanol. A solution of 24 g of sodium hydroxide dissolved in 40 mL of water was added. This mixture was allowed to stand at room temperature for 6 hours. A solution of 8 g of sodium hydroxide dissolved in 40 mL of water was added, the solution was cooled to 15°-20° C., and then 20 mL of hydrogen peroxide (30% solution) was added and the solution was allowed to warm to room temperature and was stirred overnight. Then the solution's pH was adjusted to 3 using hydrochloric acid. The yellow precipitate was collected by vacuum filtration and washed with water, ethanol, and ether to give 16 g of 6-(6-chlorohexoxy)-3-hydroxy-4H-1-benzopyran-4-one. Next, 10 g of 6-(6-chlorohexoxy)-3-hydroxy-4H-1-benzopyran-4-one was dissolved in 100 mL of tetrahydrofuran. Then 800 mg of sodium hydride was added followed by 8.3 mL of methyl iodide and the resulting solution was stirred at room temperature for 48 hours. The reaction was poured into water and extracted with ethyl acetate. The combined organic layers were washed with water and then with brine. After drying over sodium sulfate, the solvent was removed to give 8 g of 6-(6- chlorohexoxy)-3-methoxy-4H-1-benzopyran-4-one.

reactant | 5'-(6-chlorohexoxy)-2'-hydroxyacetophenone | 32 g | ClCCCCCCOC=1C=CC(=C(C1)C(C)=O)O | C14H19ClO3
reactant | benzaldehyde | 12 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | 24 g | [OH-].[Na+]
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
reactant | hydrogen peroxide | 20 mL | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 250 mL | C(C)O | C2H6O
solvent | water | 40 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 6-(6-chlorohexoxy)-3-hydroxy-4H-1-benzopyran-4-one | 16 g | ClCCCCCCOC=1C=CC2=C(C(C(=CO2)O)=O)C1 | C15H17ClO4
